US07402595B2
6-bromo-2-(6-bromo-benzo[1,3]dioxol-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution of 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (300 mg) in THF (6 ml) were added acetic acid (3 ml) and sodium acetate (100 mg) at room temperature, and bromine (0.04 ml) was added dropwise under ice-cooling. The reaction mixture was stirred at room temperature for 1 hr., sodium acetate (100 mg) was added, and bromine (0.04 ml) was added dropwise at room temperature. The reaction mixture was further stirred at room temperature for 1 hr., and bromine (0.04 ml) was added dropwise. The mixture was stirred for 1 hr. The reaction mixture was concentrated under reduced pressure, water was added to the residue and crystals were collected by filtration. The crystals were further washed with ethyl acetate to give the title compound (250 mg).

reactant | 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 300 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC2=C(OCO2)C=C1 | C25H18BrNO5
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 100 mg | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.04 ml | BrBr | Br2
reactant | sodium acetate | 100 mg | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.04 ml | BrBr | Br2
reactant | bromine | 0.04 ml | BrBr | Br2
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 6-bromo-2-(6-bromo-benzo[1,3]dioxol-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 250 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC2=C(OCO2)C=C1Br | C25H17Br2NO5
